US07572808B2
Preparation of 3-((7-(4-chlorophenyl)-3-oxo-8-(pyridin-4-yl)-[1,2,4]triazolo[4,3-a]pyridin-2(3H)-yl)methyl)-6-(trifluoromethyl)picolinaldehyde
To a stirring solution of oxalyl chloride (12 μL, 0.134 mmol) in CH2Cl2 (0.5 mL) cooled at −30° C. under argon was added anhydrous DMSO (19 μL, 0.268 mmol) over 5 min. After stirring at −30° C. for 15 min, the reaction mixture was cooled at −60° C., then a solution of 7-(4-chlorophenyl)-2-((2-(hydroxymethyl)-6-(trifluoromethyl)pyridin-3-yl)methyl)-8-(pyridin-4-yl)-[1,2,4]triazolo[4,3-a]pyridin-3(2H)-one (36 mg, 0.07 mmol) in CH2Cl2 (1.0 mL) was added over 5 min. After stirring at −60° C. for 30 min, triethylamine (72 μL, 0.54 mmol) was added, the reaction mixture was stirred at −60° C. for 30 min before warming up to room temperature. The mixture was partitioned between water and CH2Cl2. The aqueous layer was extracted with CH2Cl2 (10 mL×2), and the combined CH2Cl2 layers were washed with saturated aqueous NaCl, dried over Na2SO4 and concentrated under reduced pressure. The crude product was purified using a silica gel cartridge (4 g) eluted with a gradient of ethyl acetate (50-100%) in hexanes to afford 25 mg of the title compound as a yellow foam. The product was further purified using preparative reverse phase HPLC (Phenomenex Luna 5 μm C-18 21.2×100 mm column eluted with a linear gradient of 50% to 80% B over 8 min (A=90% water, 10% methanol and B=90% methanol, 10% water) with flow rate at 20 mL/min and UV detection at 220 nm). The desired fractions were concentrated under reduced pressure. The residue was dissolved in acetonitrile, frozen and lyophilized to afford 15 mg of the title compound as a yellow powder. HPLC/MS: retention time=2.76 min, [M+H]+=510.6.

reactant | oxalyl chloride | 0.134 mmol, 12 μL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | DMSO | 0.268 mmol, 19 μL | CS(=O)C | C2H6OS
reactant | 7-(4-chlorophenyl)-2-((2-(hydroxymethyl)-6-(trifluoromethyl)pyridin-3-yl)methyl)-8-(pyridin-4-yl)-[1,2,4]triazolo[4,3-a]pyridin-3(2H)-one | 0.07 mmol, 36 mg | ClC1=CC=C(C=C1)C1=C(C=2N(C=C1)C(N(N2)CC=2C(=NC(=CC2)C(F)(F)F)CO)=O)C2=CC=NC=C2 | C25H17ClF3N5O2
reactant | triethylamine | 0.54 mmol, 72 μL | C(C)N(CC)CC | C6H15N
solvent | CH2Cl2 | 0.5 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 1.0 mL | C(Cl)Cl | CH2Cl2
product | 3-((7-(4-chlorophenyl)-3-oxo-8-(pyridin-4-yl)-[1,2,4]triazolo[4,3-a]pyridin-2(3H)-yl)methyl)-6-(trifluoromethyl)picolinaldehyde | 25 mg | ClC1=CC=C(C=C1)C1=C(C=2N(C=C1)C(N(N2)CC=2C(=NC(=CC2)C(F)(F)F)C=O)=O)C2=CC=NC=C2 | C25H15ClF3N5O2
